US04181677
2-Benzoyl-3-dimethylaminocrotononitrile
To a solution of 14.5 g. (0.10 m) of benzoylacetonitrile in 100 ml. of chloroform, cooled in an ice-salt bath, was added 13.3 g. (0.1 m) of N,N-dimethylacetamide dimethylacetal in 20 ml. chloroform. The reaction mixture was stirred in the ice-salt bath for 2 hours, then evaporated in vacuo to an orange oil. The oil was dissolved in 150 ml. benzene and passed through Magnesol®. The filtrate was evaporated and the oil thus obtained was dissolved in 50 ml. benzene to which pet ether was added until the solution became cloudy. The precipitate which formed upon cooling was collected. The solid was recrystallized twice from benzene-pet ether, with charcoal treatment to yield 5.8 g. (27%) of light yellow crystals, m.p. 105°-106° C.

reactant | benzoylacetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | N,N-dimethylacetamide dimethylacetal | COC(C)(N(C)C)OC | C6H15NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Benzoyl-3-dimethylaminocrotononitrile | C(C1=CC=CC=C1)(=O)/C(/C#N)=C(\C)/N(C)C | C13H14N2O
